US07968538B2
1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanamine
1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanone (248 mg, 1.17 mmol), titanium(IV) isopropoxide (0.84 mL, 2.33 mmol) and 2 M solution of ammonia in ethanol (2.90 mL, 5.83 mmol) were stirred at room temperature for 6 h. The reaction was cooled to 0° C. and sodium borohydride was added portionwise during 10 min. (0.66 mg, 1.76 mmol); the resultant mixture was stirred at rt for an additional 3 h. The reaction was quenched by pouring it into ammonium hydroxide (2 M, 20 mL), the precipitate that formed was filtered off and washed with ethyl acetate (10 mL×3). The organic layer was separated and the remaining aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic extracts were washed with 1 M HCl (10 mL). The acidic aqueous extracts were washed with ethyl acetate (25 mL), then treated with aqueous sodium hydroxide (2 M) to pH 10-12, and extracted with ethyl acetate (25 mL×3). The combined organic extracts were washed with brine (10 mL), dried (Na2SO4), and concentrated in vacuo to afford the desired product (130 mg, 61% yield). 1H NMR (400 MHz, CDCl3): δ 6.87 (d, 1H), 6.75 (d, 1H), 4.24 (m, 5H), 1.35 (d, 3H).

reactant | 1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanone | 1.17 mmol, 248 mg | ClC1=CC2=C(OCCO2)C(=C1)C(C)=O | C10H9ClO3
reactant | ammonia | N | H3N
reactant | ethanol | 5.83 mmol, 2.90 mL | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 2.33 mmol, 0.84 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanamine | 130 mg, 61% yield | ClC1=CC2=C(OCCO2)C(=C1)C(C)N | C10H12ClNO2
